data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C)cc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1ccc(C)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1ccc(C)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccc(C)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1ccc(C)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccc(C)cc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1ccc(C)cc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1ccc(C)cc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1ccc(C)cc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1ccc(C)cc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1ccc(C)cc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1ccc(C)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1ccc(C)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1ccc(C)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1ccc(C)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1ccc(C)cc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)COC)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1C", "products": "Cc1ccccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1c(Cl)ccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1c(Cl)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1c(Cl)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1c(Cl)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1c(Cl)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1c(Cl)ccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(Cl)cc1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)cc1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)cc1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)cc1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)cc1F)C2(C)C", "products": "C[C+]1C2(c3ccc(Cl)cc3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(Cl)cc3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(Cl)cc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Cl)cc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)cc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(Cl)cc2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(Cl)cc2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(Cl)cc3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(Cl)cc3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(Cl)cc3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CCC(C(C)C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(C(C)C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(C(C)C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CCC(C(C)C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CCC(C(C)C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CCC(C(C)C)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
